US07750154B2
N-Cyclopropyl-4-methyl-3-[6-[(1-methylpyrrolidin-3-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide (AZ12257500)
N-Cyclopropyl-4-methyl-3-[4-oxo-6-(pyrrolidin-4-yloxy)quinazolin-3(4H)-yl]benzamide (0.18 g), iodomethane (0.031 ml) and potassium carbonate (0.246 g) were stirred in DMA (1 ml) for 18 hours at room temperature. The reaction mixture was diluted with ethyl acetate and the organic phase was washed with water and concentrated. The residue was dissolved in ethyl acetate (2 ml) and triturated with iso-hexane and the resulting solid was filtered and dried under vacuum at 40° C. There was thus obtained the title compound (0.074 g); NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.67 (m, 2H), 1.80 (m, 1H), 2.08 (m, 4H), 2.30 (m, 4H), 2.80 (m, 4H), 5.06 (s, 1H), 7.49 (m, 3H), 7.71 (d, 1H), 7.81 (s, 1H), 7.89 (d, 1H), 8.16 (s, 1H), 8.41 (s, 1H); Mass Spectrum: M+H+ 419.

reactant | N-Cyclopropyl-4-methyl-3-[4-oxo-6-(pyrrolidin-4-yloxy)quinazolin-3(4H)-yl]benzamide | 0.18 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC1CCNC1)=O | C23H24N4O3
reactant | iodomethane | 0.031 ml | IC | CH3I
reactant | potassium carbonate | 0.246 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 1 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[6-[(1-methylpyrrolidin-3-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide | 0.074 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OC1CN(CC1)C)=O | C24H26N4O3
